US06342613B1
Into a 250-ml multiple-necked flask were introduced, under nitrogen flow, 30 g of 5-propanoylbenzo[1,3]dioxol (0.268 mol) dissolved in 100 ml of methanol. At 25° C., 7 g of NaBH4 (0.185 mol) dissolved in 50 ml of methanol were dripped in 20 minutes; then the reaction mixture was brought to reflux. After 2 hours the mixture was cooled, the methanol was removed at reduced pressure, and the mixture was diluted with 100 ml of HCl 2M and extracted twice with CH2Cl2. The reunited organic phases were washed with 100 ml of H2O and concentrated at reduced pressure to obtain 30.07 g of dense, clear oil, the analysis of which—GC, MS, NMR (1H, 13C, DEPT)—was in conformity with the desired product. Alternatively, 5-(α-hydroxypropyl)benzo[1,3]dioxol was prepared as follows: Into a 1-litre autoclave, 30 g of 5-propanoylbenzo[1,3]dioxol (0.168 mol) dissolved in 150 ml of isopropanol and 1 g of Ru/C 5% were poured. The autoclave was closed, rendered inert with nitrogen, and brought to the pressure of 1 bar with H2 under stirring. The mixture was left under stirring with H2 pressure constant at 1 bar for 1 hour; then it was washed with N2 and filtered. By evaporation of the solvent at reduced pressure, 30 g of a dense oil were obtained, the analysis of which—GC, MS, NMR (1H,13C, DEPT)—was in conformity with the desired product.

reactant | 5-propanoylbenzo[1,3]dioxol | 0.168 mol, 30 g | C(CC)(=O)C1=CC2=C(OCO2)C=C1 | C10H10O3
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
catalyst | Ru/C | 1 g | [Ru] | Ru
product | 5-(α-hydroxypropyl)benzo[1,3]dioxol | OC(CC)C1=CC2=C(OCO2)C=C1 | C10H12O3
